US06916819B2
A solution of (2-chloro-6-isopropyl-3-nitro-pyridin-4-yl)-ethyl-amine (0.56 g, 2.30 mmol) in MeOH (20 mL) containing 10% Pd/c (˜50 mg) is stirred under and atmosphere of H2 for 3.5 h. The reaction mixture is then filtered through a pad of Celite using MeOH. The filtrate is concentrated in vacuo. Toluene is added to the residue and then removed in vacuo. This is repeated once more, yielding N4-ethyl-6-isopropyl-pyridine-3,4-diamine hydrochloride as a dark solid. 1H NMR (CD3OD, 400 MHz) δ 7.46 (s, 1H), 6.60 (s, 1H), 3.43 (q, J=7.4 Hz, 2H), 3.03 (sept, J=6.8 Hz, 1H), 1.35 (t, J=7.4 Hz, 3H), 1.33 (d, J=6.8 Hz, 6H) ppm.

reactant | (2-chloro-6-isopropyl-3-nitro-pyridin-4-yl)-ethyl-amine | 2.30 mmol, 0.56 g | ClC1=NC(=CC(=C1[N+](=O)[O-])NCC)C(C)C | C10H14ClN3O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | N4-ethyl-6-isopropyl-pyridine-3,4-diamine hydrochloride | Cl.C(C)NC1=C(C=NC(=C1)C(C)C)N | InChI=1S/C10H17N3.ClH/c1-4-12-10-5-9(7(2)3)13-6-8(10)11;/h5-7H,4,11H2,1-3H3,(H,12,13);1H
